US06313292B1
STEP F: Preparation of 6-Fluoropyrido[3,4-d]-pyrimidin-4(3H)-one
A suspension of 39.0 g (246 mmol) of 5-amino-2-fluoropyridine-4-carboxylic acid hydrated with 0.15 equivalents of water, 52.01 g (500 mmol) of formamidine acetate, and 500 mL of 2-methoxyethanol was heated at reflux for 6 hours, then concentrated to a solid. The solids were treated carefully with 100 mL of 10% aqueous sodium bicarbonate while maintaining vigorous stirring. The resultant suspension was filtered, and the collected brown solids were washed well with water, then dried over P2O5 to afford 31.3 g (77%,) of product that was used directly in the next reaction. Recrystallization of a small sample from methanol gave product of mp 287° C. (dec).

reactant | 5-amino-2-fluoropyridine-4-carboxylic acid | 246 mmol, 39.0 g | NC=1C(=CC(=NC1)F)C(=O)O | C6H5FN2O2
reactant | water | 0.15 equivalents | O | H2O
reactant | formamidine acetate | 500 mmol, 52.01 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | 500 mL | COCCO | C3H8O2
product | 6-Fluoropyrido[3,4-d]-pyrimidin-4(3H)-one | FC1=CC2=C(N=CNC2=O)C=N1 | C7H4FN3O
